US04644072
Ethyl-2-(3,4-methylenedioxybenzoyl)-3-(3,4,5-trimethoxyphenyl)cyclopropane carboxylate (XIIIa)
In a three-neck one-liter round-bottom flask, equipped with a magnetic stirrer, dropping funnel, nitrogen inlet and a septum was placed sodium hydride (8.2 g, 0.17 moles, 50% dispersion). The dispersion was washed with petroleum either (2×100 ml) and dried under nitrogen. Trimethylsulfoxonium iodide (37.7 g, 0.17 moles) was added, followed by a dropwise addition of dry dimethylsulfoxide (45 ml) via a syringe over a 30-minute period. The suspension was stirred at room temperature for 1.5 hours, and then a solution of carbethoxymethyl dimethylsulfonium bromide (41.2 g, 0.18 moles) in dimethylsulfoxide (60 ml) was added over a 10-minute period, under continuous stirring. The milky white suspension was further stirred at room temperature for 1.5 hours. A suspension of 3,4,5-trimethoxy-3',4'-methylenedioxy chalcone XXIIa (55.9 g, 0.16 moles) [prepared according to the procedure described by S. Wattanasin and W. S. Murphy, Synthesis, 647 (1980)] in dimethylsulfoxide (185 ml) was added in a steady stream over a 5-minute period, and then the reaction mixture was stirred at room temperature for 17 hours. The reaction mixture was poured into cold 0.1N HCl (700 ml), and the resulting gummy material was separated from the aqueous solution. The aqueous solution was extracted from ether (2×500 ml). The combined extract together with an additional amount of ether (500 ml) was employed to dissolve the gummy precipitate. The etheral solution was sequentially washed with aqueous NaHCO3 solution (500 ml, 5%) and water, dried (Na2SO4 and MgSO4) and concentrated to yield the α-isomer of the title compound (68.0 g) as a light-yellow glass. The 1H NMR spectral data of this material was identical to the α-isomer reported by W. S. Murphy and S. Wattanasin, J.C.S. Perkin I, 271 (1982).

reactant | sodium hydride | 0.17 moles, 8.2 g | [H-].[Na+]
reactant | Trimethylsulfoxonium iodide | 0.17 moles, 37.7 g | [I-].C[S+](=O)(C)C
reactant | carbethoxymethyl dimethylsulfonium bromide | 0.18 moles, 41.2 g | [Br-].C(=O)(OCC)C[S+](C)C
reactant | 3,4,5-trimethoxy-3',4'-methylenedioxy chalcone | COC=1C=C(C=C(C1OC)OC)C=CC(=O)C1=CC2=C(C=C1)OCO2 | C19H18O6
reactant | HCl | 0.1N, 700 ml | Cl | ClH
solvent | dimethylsulfoxide | 60 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 185 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 45 ml | CS(=O)C | C2H6OS
product | Ethyl-2-(3,4-methylenedioxybenzoyl)-3-(3,4,5-trimethoxyphenyl)cyclopropane carboxylate | 68.0 g | C(C)OC(=O)C1C(C1C1=CC(=C(C(=C1)OC)OC)OC)C(C1=CC2=C(C=C1)OCO2)=O | C23H24O8
